US05442060
To a mixture of 6.28 g of 4, 6-dihydroxy-5-nitropyrimidine, 6.00 g of 2-propanol, 10.5 g of triphenylphosphine and 80 ml of tetrahydrofuran was added 6.97 g of diethyl azodicarboxylate at room temperature with stirring, and the resultant mixture was stirred for 2 hours, mixed with 10.5 g of triphenylphosphine and 6.97 g of diethyl azodicarboxylate, stirred for 11 hours, again mixed with 10.5 g of triphenylphosphine and 6.97 g of diethyl azodicarboxylate and stirred for further 11 hours. The precipitate was filtered off, and the filtrate was concentrated in vacuo. The residue was mixed with ether, and the insoluble material was filtered off. The filtrate was concentrated in vacuo, and the residue was chromatographed on a silica gel column, eluting with ethyl acetate-n-hexane (1:14) to give 3.13 g of 4, 6-di (1-methylethoxy)-5-nitropyrimidine.

reactant | 4, 6-dihydroxy-5-nitropyrimidine | 6.28 g | OC1=NC=NC(=C1[N+](=O)[O-])O | C4H3N3O4
reactant | 2-propanol | 6.00 g | CC(C)O | C3H8O
reactant | triphenylphosphine | 10.5 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 6.97 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | triphenylphosphine | 10.5 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 6.97 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | triphenylphosphine | 10.5 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 6.97 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
product | 4, 6-di (1-methylethoxy)-5-nitropyrimidine | 3.13 g | CC(C)OC1=NC=NC(=C1[N+](=O)[O-])OC(C)C | C10H15N3O4
